US07732463B2
1-Bromo-2-(4-fluoro-phenylsulfanyl)-5-fluoro-benzene (intermediate for 2j).
Prepared from 4-fluoro-benzenethiol and 2-bromo-4-fluoro-1-iodo-benzene.

reactant | 4-fluoro-benzenethiol | FC1=CC=C(C=C1)S | C6H5FS
reactant | 2-bromo-4-fluoro-1-iodo-benzene | BrC1=C(C=CC(=C1)F)I | C6H3BrFI
product | 1-Bromo-2-(4-fluoro-phenylsulfanyl)-5-fluoro-benzene | BrC1=C(C=CC(=C1)F)SC1=CC=C(C=C1)F | C12H7BrF2S
